US07511057B2
4,4-Dimethyl-3-oxohexanenitrile
A suspension of sodium hydride (60% dispersion in mineral oil, 3.18 g, 79.4 mmol) in tetrahydrofuran (60 mL) was heated at 60° C. for 1 hour. The reaction mixture was then cooled to room temperature, acetonitrile (4.2 mL, 79.4 mmol) and 2,2-dimethyl-butyric acid ethyl ester [(7.95 g, 61 mmol), J. Am. Chem. Soc., 1942, 64, 2964] in tetrahydrofuran (100 mL) were added and the mixture was stirred for 4 hours at 25° C. The mixture was then diluted with 1M hydrochloric acid (100 mL) and the aqueous layer was separated and extracted with ethyl acetate. The organic solution was then dried over magnesium sulfate, concentrated in vacuo and the residue was triturated with heptane to afford the title compound as a pale brown solid in 27% yield, 2.3 g.

reactant | sodium hydride | 79.4 mmol, 3.18 g | [H-].[Na+]
reactant | acetonitrile | 79.4 mmol, 4.2 mL | C(C)#N | C2H3N
reactant | 2,2-dimethyl-butyric acid ethyl ester | 61 mmol, 7.95 g | C(C)OC(C(CC)(C)C)=O | C8H16O2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 1M, 100 mL | Cl | ClH
product | 4,4-Dimethyl-3-oxohexanenitrile | 27% yield | CC(C(CC#N)=O)(CC)C | C8H13NO
